US07635684B2
4-[(4-{3-[N-Benzyl-N-(2-carbamoylethyl)amino]propoxy}-2-methylphenyl)methyl]-5-isopropyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazole
A mixture of 4-{[4-(3-chloropropoxy)-2-methylphenyl]-methyl}-5-isopropyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazole (1.34 g), 3-benzylaminopropionamide (0.73 g), sodium iodide (0.24 g), ethanol (6 mL) and acetonitrile (6 mL) was stirred at 70° C. for 2 days. To the reaction mixture was added sodium iodide (0.2 g), and the mixture was further stirred at 75° C. for 24 hours. The reaction mixture was poured into 1 mol/L hydrochloric acid, and the resulting mixture was extracted with ethylacetate. The extract was washed with water, a saturated aqueous sodium hydrogen carbonate solution and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=1/5-dichloromethane/methanol=15/1) to give the title compound (0.97 g).

reactant | 4-{[4-(3-chloropropoxy)-2-methylphenyl]-methyl}-5-isopropyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazole | 1.34 g | ClCCCOC1=CC(=C(C=C1)CC=1C(=NNC1C(C)C)O[C@H]1[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O1)COC(C(C)(C)C)=O)C | C43H65ClN2O11
reactant | 3-benzylaminopropionamide | 0.73 g | C(C1=CC=CC=C1)NCCC(=O)N | C10H14N2O
reactant | sodium iodide | 0.24 g | [I-].[Na+]
reactant | sodium iodide | 0.2 g | [I-].[Na+]
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
solvent | ethanol | 6 mL | C(C)O | C2H6O
product | 4-[(4-{3-[N-Benzyl-N-(2-carbamoylethyl)amino]propoxy}-2-methylphenyl)methyl]-5-isopropyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazole | 0.97 g | C(C1=CC=CC=C1)N(CCC(N)=O)CCCOC1=CC(=C(C=C1)CC=1C(=NNC1C(C)C)O[C@H]1[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O1)COC(C(C)(C)C)=O)C | C53H78N4O12
